US09120822B2
Sodium carbonate (405 mg, 3.82 mmol, 3.5 eq) is added at −5° C. to a stirred solution of 2-[trans-4-(6-methoxy-2-oxo-2,3-dihydro-1H-4-oxa-1,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-isoindole-1,3-dione (500 mg, 1.09 mmol, 1.0 eq) in N,N-dimethylformamide (30 mL), followed by iodomethane (408 μL, 6.55 mmol, 6.0 eq). After 14 hours stirring at −5° C., solvent is removed and the residue is extracted with ethyl acetate (3×100 mL) and water (100 mL). The combined organic layers are washed with brine, dried over sodium sulfate, filtered and concentrated to give a crude that is purified by column chromatography (silica gel, eluent: dichloromethane:methanol, 50:1, v/v) to afford 2-[trans-4-(6-methoxy-1-methyl-2-oxo-2,3-dihydro-1H-4-oxa-1,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-isoindole-1,3-dione as a light red semisolid (420 mg, 81% yield).

reactant | Sodium carbonate | 3.82 mmol, 405 mg, 3.5 eq | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-[trans-4-(6-methoxy-2-oxo-2,3-dihydro-1H-4-oxa-1,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-isoindole-1,3-dione | 1.09 mmol, 500 mg, 1.0 eq | COC=1N=C2C=3OC(C(NC3C=NC2=CC1)=O)[C@@H]1CC[C@H](CC1)N1C(C2=CC=CC=C2C1=O)=O | C25H22N4O5
reactant | iodomethane | 6.55 mmol, 408 μL, 6.0 eq | IC | CH3I
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | 2-[trans-4-(6-methoxy-1-methyl-2-oxo-2,3-dihydro-1H-4-oxa-1,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-isoindole-1,3-dione | 420 mg, 81% yield | COC=1N=C2C=3OC(C(N(C3C=NC2=CC1)C)=O)[C@@H]1CC[C@H](CC1)N1C(C2=CC=CC=C2C1=O)=O | C26H24N4O5
